US07732446B1
As described in example 1E, 100 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with benzyl-methyl-amine to give 100 mg of [4-(benzyl-methyl-carbamoyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C26H31N3O5+H 466.5; found 466.0.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | benzyl-methyl-amine | C(C1=CC=CC=C1)NC | C8H11N
product | [4-(benzyl-methyl-carbamoyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(C)CC1=CC=CC=C1)=O)=O | C26H31N3O5
